US07402595B2
6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl Chloride
To a suspension of 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (1.0 g) in THF (10 ml) was added DMF (0.1 ml), and oxalyl chloride (0.4 ml) was added dropwise under ice-cooling. The reaction mixture was allowed to warm to room temperature, stirred for 30 min., and concentrated under reduced pressure. The obtained crystals were washed with diisopropyl ether to give the title compound (1.0 g).

reactant | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 1.0 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)O)C1=CC=CC=C1 | C24H18BrNO5S
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonyl Chloride | 1.0 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)Cl)C1=CC=CC=C1 | C24H17BrClNO4S
